US07132426B2
A solution of 5-amino-1-(4-methanesulfonyl-phenyl)-1H-pyrazole-4-carbonitrile (1.2 g, 4.57 mmol) and phosgeniminium chloride (0.900 g, 7.08 mmol) in dry 1,2-dichloroethane was refluxed for 4 h. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (30 to 50% ethyl acetate/hexanes) to yield 1-chloro-N′-[4-cyano-2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-N,N-dimethyl-formamidine (1.3 g, 80%) as a yellowish solid. Exact mass calculated for C14H14ClN5O2S 351.06, found 352.20 (MH+, 100%).

reactant | 5-amino-1-(4-methanesulfonyl-phenyl)-1H-pyrazole-4-carbonitrile | 4.57 mmol, 1.2 g | NC1=C(C=NN1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C11H10N4O2S
reactant | phosgeniminium chloride | 7.08 mmol, 0.900 g | C[N+](=C(Cl)Cl)C.[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-chloro-N′-[4-cyano-2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-N,N-dimethyl-formamidine | 1.3 g, 80% | ClC(=NC=1N(N=CC1C#N)C1=CC=C(C=C1)S(=O)(=O)C)N(C)C | C14H14ClN5O2S
